US08236823B2
3-Hydroxy-4-methylbenzoic acid (1.07 g, 7.00 mmol), 3-isopropylbenzenamine (0.90 mL, 6.4 mmol), and DMAP (0.27 g, 2.2 mmol) were suspended in 25 mL dry toluene in a 2-neck flask with an attached Dean-Stark trap under N2. The mixture was stirred in a 135° C. oil bath and brought to a boil before PCl3 (0.28 mL, 3.2 mmol) was added dropwise by glass/Teflon syringe over 15 minutes. Heating was continued an additional 25 minutes. After cooling, the mixture was diluted with brine and ethyl acetate, and acidified with 1 NHC1. After extraction, the organic layer was dried over anhydrous Na2SO4, concentrated, and purified by flash chromatography (20-50% EtOAc/hexanes) to yield 3-hydroxy-N-(3-isopropylphenyl)-4-methylbenzamide as a white solid after concentration. MS m/z=268 [M−1]−. Calc'd for C17H19NO2: 269.35.

reactant | 3-Hydroxy-4-methylbenzoic acid | 7.00 mmol, 1.07 g | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | 3-isopropylbenzenamine | 6.4 mmol, 0.90 mL | C(C)(C)C=1C=C(C=CC1)N | C9H13N
reactant | PCl3 | 3.2 mmol, 0.28 mL | P(Cl)(Cl)Cl | Cl3P
catalyst | DMAP | 2.2 mmol, 0.27 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-hydroxy-N-(3-isopropylphenyl)-4-methylbenzamide | OC=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1C | C17H19NO2
